US07608629B2
Preparation 39. 4-(3-Amino-phenoxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2
Add sodium acetate (0.309 g) and hydroxyamine hydrochloride (0.197 g) to 4-[3-(benzhydrylidene-amino)-phenoxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester isomer 2 (preparation 37) and stir at room temperature. After 1 hr., partition between ethyl acetate and saturated aqueous NaCl, dry over anhydrous sodium sulfate and evaporate. Purify on a silica gel column (35 g, solvent: dichloromethane-2M NH3 in methanol, gradient) to give the title compound (0.290 g). Mass spectrum (electrospray) m/z=251 (M-57+1), 207 (M-BOC+1); 1H NMR (CDCl3): 7.04 (t, 1H), 6.37 (d, 1H), 6.35 (d, 1H), 6.32 (t, 1H), 4.61 (m, 1H), 4.33 (m, 3H), 3.86 (m, 1H), 3.25 (m, 1H), 1.93 (m, 2H), 1.86 (m, 1H), 1.70 (m, 1H), 1.46 (s, 9H), 1.29 (d, J=7.1 Hz, 3H).

reactant | sodium acetate | 0.309 g | C(C)(=O)[O-].[Na+]
reactant | hydroxyamine hydrochloride | 0.197 g | Cl.ON
reactant | 4-[3-(benzhydrylidene-amino)-phenoxy]-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=CC(=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)C | C30H34N2O3
product | 4-(3-Amino-phenoxy)-cis-2-methyl-piperidine-1-carboxylic acid tert-butyl ester | 0.290 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](CC1)OC1=CC(=CC=C1)N)C | C17H26N2O3
